US07365095B2
To a suspension of [(2R)-8-(2,5-dichlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl 4-methylbenzenesulfonate (0.15 g, 0.324 mmol) in dimethylsulfoxide (0.5 mL) was added a solution of methylamine (2.0 M in tetrahydrofuran, 1.62 mL, 3.24 mmol) and the mixture heated to 60° C. in a sealed vial for 24 hours. The cooled reaction mixture was then diluted with diethyl ether (10 mL), washed with 1.0 M aqueous sodium hydroxide solution (5 mL) and water (5×5 mL), dried over magnesium sulfate, filtered and concentrated under reduced pressure to afford a yellow oil. Purification by flash chromatography using a solvent gradient of 0.5 to 5% ammonia saturated methanol solution in dichloromethane gave {[(2R)-8-(2,5-dichlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl}methylamine as a colorless syrup. The product was dissolved in diethyl ether (1 mL) and a solution of hydrogen chloride (1.0 M in diethyl ether, 0.25 mL, 0.25 mmol) was added followed by 2-propanol (3 drops). The resulting white precipitate was filtered and the solid product triturated with diethyl ether (3×3 mL) to afford 56 mg (48%) of {[(2R)-8-(2,5-dichlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl}methylamine hydrochloride as a white solid. MS (ESI) m/z 322.0 ([M+H]+).

reactant | [(2R)-8-(2,5-dichlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl 4-methylbenzenesulfonate | 0.324 mmol, 0.15 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=CC=C2CC1)C1=C(C=CC(=C1)Cl)Cl | C23H20Cl2O4S
reactant | methylamine | 3.24 mmol, 2.0 M, 1.62 mL | CN | CH5N
solvent | dimethylsulfoxide | 0.5 mL | CS(=O)C | C2H6OS
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | {[(2R)-8-(2,5-dichlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl}methylamine | ClC1=C(C=C(C=C1)Cl)C=1C=CC=C2CC[C@@H](OC12)CNC | C17H17Cl2NO
